US06921759B2
To a 5 mL pyrex pressure vessel with a stirring bar was added 5-bromo-8-hydroxy-[1,6]naphthyridine-7-carboxylic acid 3,5-dichloro-benzylamide (0.055 g, 0.13 mmol), thiophenol (0.056 g, 0.50 mmol) and triethylamine (0.28 mL, 2.00 mmol). The vessel was sealed under nitrogen and the stirred mixture heated in a 135° C. oil bath for 24 h. The cooled reaction mixture was concentrated in vacuo and the residue was chromatographed on silica gel (15 g) using methanol:chloroform (5:95) as eluant to give 8-hydroxy-5-phenylsulfanyl-[1,6]naphthyridine-7-carboxylic acid 3,5-dichlorobenzylamide as a solid.

reactant | 5-bromo-8-hydroxy-[1,6]naphthyridine-7-carboxylic acid 3,5-dichloro-benzylamide | 0.13 mmol, 0.055 g | ClC=1C=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)Br)C=C(C1)Cl | C16H10BrCl2N3O2
reactant | thiophenol | 0.50 mmol, 0.056 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 2.00 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
product | 8-hydroxy-5-phenylsulfanyl-[1,6]naphthyridine-7-carboxylic acid 3,5-dichlorobenzylamide | ClC=1C=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)SC2=CC=CC=C2)C=C(C1)Cl | C22H15Cl2N3O2S
